US05064861
STEP B: N,N'-bis-(tert-butoxycarbonyl)-methyl thioisourea
58.1 g of tert-butyl dicarbonate, 25.3 g of methyl thioisourea sulfate, 50 g of sodium bicarbonate, 500 ml of water and 500 ml of methylene chloride were stirred for 48 hours at 20° C. and after decanting, followed by extraction with methylene chloride and evaporation to dryness, 27 g of the expected product melting at 118° C. were obtained.

reactant | tert-butyl dicarbonate | 58.1 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | methyl thioisourea sulfate | 25.3 g | S(=O)(=O)(O)O.CNC(S)=N
reactant | sodium bicarbonate | 50 g | C([O-])(O)=O.[Na+]
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N,N'-bis-(tert-butoxycarbonyl)-methyl thioisourea | 27 g | C(C)(C)(C)OC(=O)N(C(S)=NC(=O)OC(C)(C)C)C | C12H22N2O4S
